US04968847
Preparation of 2,2-dichloro-3,3,3-trifluoro-1-(2,6-dichloro-4-nitrophenyl)-1-propanol.
3 g of 2,6-dichloro-4-nitro benzaldehyde were reacted, in 20 ml of anhydrous DMF under a nitrogen atmosphere, with CF3CCl2ZnCl prepared from 5 g of CF3CCl3 and 2.2 g of Zn in 10 ml of THF at 60° C. for 1 hour. The mixture was heated at 50° C. for 2 hours and at the end of the reaction it was poured into acidulated water and extracted repeatedly with ethyl ether.

reactant | 2,6-dichloro-4-nitro benzaldehyde | 3 g | ClC1=C(C=O)C(=CC(=C1)[N+](=O)[O-])Cl | C7H3Cl2NO3
reactant | CF3CCl2ZnCl | C(F)(F)(F)C(Cl)(Cl)[Zn]Cl
reactant | CF3CCl3 | 5 g | C(F)(F)(F)C(Cl)(Cl)Cl | C2Cl3F3
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Zn | 2.2 g | [Zn] | Zn
product | 2,2-dichloro-3,3,3-trifluoro-1-(2,6-dichloro-4-nitrophenyl)-1-propanol | ClC(C(O)C1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)(C(F)(F)F)Cl | C9H4Cl4F3NO3
